US03970673
In the same manner as described in Example 1 but using 0.5 part of phenol in place of the hydroquinone, 7 parts of unreacted ethyl orthoacetate was recovered and then 4.2 parts of the desired product, a lactone of cis-2-hydroxy-cyclopent-4-ene-1-acetic acid was obtained.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | cis-2-hydroxy-cyclopent-4-ene-1-acetic acid | O[C@@H]1[C@@H](C=CC1)CC(=O)O | C7H10O3
